US04000275
6-(2-di(n-Propyl)aminoethyl)-3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one and 2-chlorodi(n-propyl)aminoethane.

reactant | 3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one | COC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C15H11N3O2
reactant | 2-chlorodi(n-propyl)aminoethane | ClCCN(CCC)CCC | C8H18ClN
product | 6-(2-di(n-Propyl)aminoethyl)-3-methoxybenzimidazo[2,1-b]-quinazolin-12(6H)one | C(CC)N(CCN1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)OC)CCC | C23H28N4O2
